US04358593
3-[4-(2-diethylaminoethoxy)benzoyl]-6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene, hydrochloride
A 5.2 g. portion of 4-(2-diethylaminoethoxy)benzoic acid, hydrochloride, was converted to the acid chloride, and used to acylate 5 g. of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene according to the process of Example 5. The amount of aluminum chloride was 15.1 g., and the reaction mixture was stirred for 1.5 hours after its addition. The mixture was worked up as described in Example 5 to obtain a yellow foam, which began to crystallize after standing for several days. It was triturated with denatured ethanol and recrystallized from denatured ethanol to obtain 6.5 g. of purified crystalline product, m.p. 172°-174°.

reactant | 4-(2-diethylaminoethoxy)benzoic acid, hydrochloride | Cl.C(C)N(CCOC1=CC=C(C(=O)O)C=C1)CC
reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene | CS(=O)(=O)OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | C16H14O6S3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3-[4-(2-diethylaminoethoxy)benzoyl]-6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene, hydrochloride | Cl.C(C)N(CCOC1=CC=C(C(=O)C=2C3=C(SC2C2=CC=C(C=C2)OS(=O)(=O)C)C=C(C=C3)OS(=O)(=O)C)C=C1)CC | InChI=1S/C29H31NO8S3.ClH/c1-5-30(6-2)17-18-36-22-11-7-20(8-12-22)28(31)27-25-16-15-24(38-41(4,34)35)19-26(25)39-29(27)21-9-13-23(14-10-21)37-40(3,32)33;/h7-16,19H,5-6,17-18H2,1-4H3;1H
